US08247401B2
To a solution of benzyl[(1R)-1-cyanoethyl]carbamate (2.52 g, 12.3 mmol) in ethanol (30 ml) was added hydroxylamine hydrochloride salt (0.90 g, 13.0 mmol) and triethylamine (3.43 ml, 24.6 mmol) and the mixture heated to 75° C. After 16 h, the solution was concentrated and the residue was dissolved in 200 mL of dichloromethane. The mixture was washed with 100 mL of saturated aqueous sodium bicarbonate (2×) and brine (100 mL). The combined organic extracts were dried over sodium sulfate, filtered and concentrated to give benzyl[(1R,2Z)-2-amino-2-(hydroxyimino)-1-methylethyl]carbamate (2.9 g). MS 238.2 (M+1).

reactant | benzyl[(1R)-1-cyanoethyl]carbamate | 12.3 mmol, 2.52 g | C(C1=CC=CC=C1)OC(N[C@H](C)C#N)=O | C11H12N2O2
reactant | hydroxylamine hydrochloride salt | 13.0 mmol, 0.90 g | Cl.NO
reactant | triethylamine | 24.6 mmol, 3.43 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | benzyl[(1R,2Z)-2-amino-2-(hydroxyimino)-1-methylethyl]carbamate | 2.9 g | C(C1=CC=CC=C1)OC(N[C@@H](/C(=N/O)/N)C)=O | C11H15N3O3
